US08754114B2
Step 1: cyclopropylmethyl 4-nitrophenyl carbonate
p-Nitrophenyl chloroformate (0.56 g, 2.8 mmol) was added to a mixture of cyclopropyl carbinol (0.20 g, 2.8 mmol) and triethylamine (0.58 mL, 4.2 mmol) in methylene chloride (5 mL). The mixture was stirred at r.t. for 2 h. After removal of solvent, the residue was purified by flash chromatography on a silica gel column with ethyl acetate in hexanes (0-40%) to afford the desired product.

reactant | p-Nitrophenyl chloroformate | 2.8 mmol, 0.56 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | cyclopropyl carbinol | 2.8 mmol, 0.20 g | C1(CC1)CO | C4H8O
reactant | triethylamine | 4.2 mmol, 0.58 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | cyclopropylmethyl 4-nitrophenyl carbonate | C(OCC1CC1)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C11H11NO5
